US06630554B1
To a 500 ml Schlenk tube, in which a magnetic stirrer chip was put, was added 2.0 g of 1,1-diphenylethylene and then the inside thereof was replaced by nitrogen. Thereto were added 190 ml of toluene and 7.7 ml of a cyclohexane solution of sec-butyllithium (concentration: 1.3 M). The resultant solution was stirred at room temperature for 2 days to conduct reaction. In this way, a toluene solution of 1,1-diphenyl-3-methylpentyllithium (DPMPLi) (concentration: 0.05 M) was obtained. Example 11 (Polymerization example of methyl methaciylate, using 1,1-diphenyl-3-methylpentyllithium)

reactant | 1,1-diphenylethylene | 2.0 g | C1(=CC=CC=C1)C(=C)C1=CC=CC=C1 | C14H12
reactant | cyclohexane | 7.7 ml | C1CCCCC1 | C6H12
reactant | sec-butyllithium | C(C)(CC)[Li]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 190 ml | C1(=CC=CC=C1)C | C7H8
product | 1,1-diphenyl-3-methylpentyllithium | C1(=CC=CC=C1)C(CC(CC)C)(C1=CC=CC=C1)[Li] | InChI=1S/C18H21.Li/c1-3-15(2)14-18(16-10-6-4-7-11-16)17-12-8-5-9-13-17;/h4-13,15H,3,14H2,1-2H3;
